US08383652B2
808 μL (4.8 mmol) of triflic anhydride are added to a solution of 1.5 g (4 mmol) of ethyl 2-[1-(3-ethoxy-4-hydroxyphenyl)meth-(E)-ylidene]butyrate and 1.6 mL (12 mmol) of triethylamine in 20 mL of dichloromethane at 0° C. The reaction mixture is stirred at room temperature for 1 hour. The reaction medium is hydrolyzed in sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over magnesium sulfate. The solvent is evaporated off and 1.7 g (100%) of ethyl 2-[1-(3-ethoxy-4-trifluoromethanesulfonyloxyphenyl)meth-(E)-ylidene]butyrate are obtained in the form of a brown oil.

reactant | triflic anhydride | 4.8 mmol, 808 μL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | ethyl 2-[1-(3-ethoxy-4-hydroxyphenyl)meth-(E)-ylidene]butyrate | 4 mmol, 1.5 g | C(C)OC=1C=C(C=CC1O)\C=C(\C(=O)OCC)/CC | C15H20O4
reactant | triethylamine | 12 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | ethyl 2-[1-(3-ethoxy-4-trifluoromethanesulfonyloxyphenyl)meth-(E)-ylidene]butyrate | 1.7 g, 100% | C(C)OC=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)\C=C(\C(=O)OCC)/CC | C16H19F3O6S
